US06953802B2
A suspension of (R)-3-(5-bromo-2-(N-cyclohexyl-N-methylamino)-pyrimidin-4-ylamino)-3-(4-(tert-butyldimethylsiloxy)phenyl)propanoic acid ethyl ester (1.0 eq), 2-fluorophenylboronic acid (3.0 eq), K3PO4 (3.0 eq) and Pd(PPh3)4 (0.03 eq) in DMF under nitrogen was stirred at 90° C. for 5 h. The DMF was evaporated, the residue was dissolved in EtOAc, and the resulting solution was washed successively with 0.5 M citric acid, sat. NaHCO3 and sat. NaCl. The EtOAc extracts were treated with MgSO4, filtered, and evaporated. The residue was purified by flash chromatography on silica gel using 6:4 hexanes/EtOAc to give (R)-3-(5-(2-fluorophenyl)-2-(N-cyclohexyl-N-methylamino)pyrimidin-4-ylamino)-3-(4-hydroxyphenyl)propanoic acid ethyl ester.

reactant | (R)-3-(5-bromo-2-(N-cyclohexyl-N-methylamino)-pyrimidin-4-ylamino)-3-(4-(tert-butyldimethylsiloxy)phenyl)propanoic acid ethyl ester | 1.0 eq | C(C)OC(C[C@H](C1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C)NC1=NC(=NC=C1Br)N(C)C1CCCCC1)=O | C28H43BrN4O3Si
reactant | 2-fluorophenylboronic acid | 3.0 eq | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | K3PO4 | 3.0 eq | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.03 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (R)-3-(5-(2-fluorophenyl)-2-(N-cyclohexyl-N-methylamino)pyrimidin-4-ylamino)-3-(4-hydroxyphenyl)propanoic acid ethyl ester | C(C)OC(C[C@H](C1=CC=C(C=C1)O)NC1=NC(=NC=C1C1=C(C=CC=C1)F)N(C)C1CCCCC1)=O | C28H33FN4O3
